US08809369B2
To a stirred mixture solution of 2-(2-ethyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid methyl ester (0.6 g, 1.78 mmol) in methanol (10 mL) and tetrahydrofuran (20 mL) was added 30% sodium hydroxide in water (10 mL). The reaction mixture was stirred at 60° C. for 12 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×100 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-(2-ethyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (0.5 g, 90%) as a light white solid which was used for next step without further purification: MS (ESI) M+1=310.1.

reactant | 2-(2-ethyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid methyl ester | 1.78 mmol, 0.6 g | COC(=O)C=1C=C2C(CC(NC2=CC1)C1=C(C=CC=C1)CC)(C)C | C21H25NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 2-(2-ethyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 0.5 g, 90% | C(C)C1=C(C=CC=C1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O | C20H23NO2
